US05780482
A mixture of ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate (3.1 g), 4-methoxyaniline (1.36 g) and IMS (40 ml) was boiled under reflux for 4 hours. The mixture was evaporated to dryness. The residual solid was ground in ether and then filtered. The solid was dissolved in dichloromethane and purified by column chromatography on silica using dichloromethane, then ether, then ethyl acetate, then IMS, as the mobile phase. The third fraction obtained was dissolved in IMS (30 ml) and the solution was saturated with hydrogen chloride gas. Ether was added and the mixture left to stand at approximately 4° C. for 3 days. The mixture was filtered to give ethyl 6-ethoxy-4-(4-methoxyanilino)-1,5-naphthyridine-3-carboxylate hydrochloride hydrate, m.p. 130°-133° C. Active (3/3) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate | 3.1 g | ClC1=C(C=NC2=CC=C(N=C12)OCC)C(=O)OCC | C13H13ClN2O3
reactant | 4-methoxyaniline | 1.36 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | hydrogen chloride | Cl | ClH
solvent | Ether | CCOCC | C4H10O
product | ethyl 6-ethoxy-4-(4-methoxyanilino)-1,5-naphthyridine-3-carboxylate hydrochloride hydrate | O.Cl.C(C)OC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)OC | InChI=1S/C20H21N3O4.ClH.H2O/c1-4-26-17-11-10-16-19(23-17)18(15(12-21-16)20(24)27-5-2)22-13-6-8-14(25-3)9-7-13;;/h6-12H,4-5H2,1-3H3,(H,21,22);1H;1H2
